US05854268
a) 5-[4-(Hydroxymethyl)piperidin-1-yl]pentanal dimethyl acetal
To a cooled (0° C.) and stirred suspension of isonipecotic acid (25.83 g, 200 mmol), in anhydrous THF (100 ml) was added lithium aluminium hydride (1M in THF; 200 ml), under a nitrogen atmosphere. The reaction was allowed to attain room temperature and it was stirred for 18 h, then refluxed for a further 4 h. The reaction was quenched by sequential addition of water (7.5 ml), 15% sodium hydroxide solution (7.5 ml) and water (15 ml). The reaction was filtered to remove a granular precipitate and the filtrate was concentrated under vacuum to give 11.24 g of 4-(hydroxymethyl)piperidine as a colourless oil. The title compound was prepared from 5-chloropentanal dimethyl acetal (20.4 g, 122 mmol) and 4-(hydroxymethyl)piperidine (15.7 g) using a similar method to that described for Example 8 (step 2). δ (360 MHz, DMSO-d6) 1.10 (2H, m), 1.28 (2H, m), 1.39 (2H, m), 1.48 (2H, m), 1.60 (2H, br d), 1.77 (2H, t), 2.20 (2H, t), 2.80 (2H, br d), 3.21 (8H, m), 4.31 (1H, t), 4.37 (1H, t).

reactant | 5-chloropentanal dimethyl acetal | 122 mmol, 20.4 g | COC(CCCCCl)OC | C7H15ClO2
reactant | 4-(hydroxymethyl)piperidine | 15.7 g | OCC1CCNCC1 | C6H13NO
product | 5-[4-(Hydroxymethyl)piperidin-1-yl]pentanal dimethyl acetal | COC(CCCCN1CCC(CC1)CO)OC | C13H27NO3
